US07851618B2
Fmoc-Arg(OtBu)-OH, 1-mesitylenesulfonyl-3-nitro-1,2,4-triazole (MSNT) and N-methylimidazole were dissolved in CH2Cl2, and the solution was stirred for 5 minutes and thereafter placed into the solid-phase synthesis column containing the resin, followed by stirring at room temperature for 3 hours. The resin was thereafter washed with methylene chloride, isopropanol and DMF and dried. The unreacted hydroxyl group on the solid phase was thereafter acetylated using a 20% DMF solution of acetic anhydride for 20 minutes for capping. The resin was washed with DMF and stirred along with a 20% piperidine/DMF solution for 20 minutes to remove the protective Fmoc group, whereby resin-Arg-NH2 was obtained. The product was washed with DMF and dried.

reactant | Fmoc-Arg(OtBu)-OH | N([C@@H](CCCNC(NOC(C)(C)C)=N)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C25H32N4O5
reactant | 1-mesitylenesulfonyl-3-nitro-1,2,4-triazole | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)N1N=C(N=C1)[N+](=O)[O-])C | C11H12N4O4S
reactant | N-methylimidazole | CN1C=NC=C1 | C4H6N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Arg-NH2 | N[C@@H](CCCNC(N)=N)C(=O)N | C6H15N5O
